PCB_Project
*SPICE Netlist generated by Advanced Sim server on 7/30/2026 9:44:43 PM
.options MixedSimGenerated

*Schematic Netlist:
CC1 NetC1_1 NetC1_2 1p
RR1 0 NetR1_2 1K TC1=0 TC2=0
RR2 NetR2_1 NetR2_2 1K TC1=0 TC2=0
RR3 NetC2_1 NetR3_2 1K TC1=0 TC2=0
RR4 0 NetC2_1 1K TC1=0 TC2=0

.PLOT {V(NetBNC1_1)} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:

.END