USB_Oscilloscope
*SPICE Netlist generated by Advanced Sim server on 8/11/2026 9:18:12 PM
.options MixedSimGenerated

*Schematic Netlist:
CC27 NetC27_1 0 0.1uF
CC28 NetC28_1 0 0.1uF
CC29 NetC27_1 0 0.1uF
RR45 NetQ3_1 NetC27_1 10K TC1=0 TC2=0
RR46 NetR46_1 NetQ3_1 1K TC1=0 TC2=0
RR47 NetR47_1 NetR47_2 1K TC1=0 TC2=0
RR48 NetQ3_2 NetR48_2 5.17K TC1=0 TC2=0
RR49 NetC28_1 NetR49_2 1K TC1=0 TC2=0

.PLOT {V(NetC27_1)} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:

.END